US08623889B2
To a mixture of (S)-butane-1,3-diol (0.2450 g, 2.718 mmol), pyridine (1.50 mL, 18.5 mmol), and methylene chloride (10.0 mL, 156 mmol) at −15° C. was dropwise added benzoyl chloride (0.32 mL, 2.8 mmol). After 3.5 hours, methanesulfonyl chloride (0.300 mL, 3.88 mmol) was added to the reaction mixture, and the temperature was maintained at 0° C. After 1.5 hours, the reaction was warmed to room temperature. After 2 additional hours, triethylamine (1.0 mL, 7.2 mmol) was added. After one additional hour, the reaction mixture was poured into 50 mL dichloromethane and washed once with 50 mL water. The aqueous layer was extracted with an additional 50 mL of dichloromethane. The combined organic portions were dried over MgSO4, filtered, and evaporated in vacuo. The crude material was purified via flash chromatography on silica gel (40 g silica, solvent gradient: 0-100% ethyl acetate in heptanes) to yield 0.3603 g (49%) of (S)-3-(methylsulfonyloxy)butyl benzoate. LCMS (ESI): M+H=273.2; 1H NMR (400 MHz, DMSO-d6) δ 7.99 (d, J=7.6 Hz, 2H), 7.66 (t, J=7.4 Hz, 1H), 7.53 (t, J=7.7 Hz, 2H), 4.94 (h, J=6.3 Hz, 1H), 4.45-4.26 (m, 2H), 3.17 (s, 3H), 2.09 (q, J=6.2 Hz, 2H), 1.42 (d, J=6.3 Hz, 3H).

reactant | (S)-butane-1,3-diol | 2.718 mmol, 0.2450 g | C(C[C@H](C)O)O | C4H10O2
reactant | pyridine | 18.5 mmol, 1.50 mL | N1=CC=CC=C1 | C5H5N
reactant | benzoyl chloride | 2.8 mmol, 0.32 mL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | methanesulfonyl chloride | 3.88 mmol, 0.300 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 7.2 mmol, 1.0 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | methylene chloride | 156 mmol, 10.0 mL | C(Cl)Cl | CH2Cl2
product | (S)-3-(methylsulfonyloxy)butyl benzoate | 0.3603 g, 49% | C(C1=CC=CC=C1)(=O)OCC[C@H](C)OS(=O)(=O)C | C12H16O5S
